US04880809
Diethyl phosphorocyanidate (1 ml) is added dropwise, under ice-cooling, to a mixture of 1,2-dihydro-6,7-dimethoxy-3-naphthoic acid (0.8 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1 g), triethylamine (0.35 g) and N,N-dimethylformamide (30 ml). The whole mixture is stirred for one hour under ice-cooling and allowed to stand at room temperature for one hour. Water (100 ml) is added to the reaction mixture and the mixture is extracted with ethyl acetate (100 ml). The organic layer is washed with water, dried and concentrated under reduced pressure. The residue is purified silica gel column chromatography (hexane:acetone=1:1-1:2). The oily product thus obtained is treated with hydrogen chloride is ethyl acetate to afford 1-(6,7-dimethoxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride, which is identical with the product obtained in Example 5. The yield is 0.85 g.

reactant | Diethyl phosphorocyanidate | 1 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | 1,2-dihydro-6,7-dimethoxy-3-naphthoic acid | 0.8 g | COC=1C=C2C=C(CCC2=CC1OC)C(=O)O | C13H14O4
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.35 g | C(C)N(CC)CC | C6H15N
product | 1-(6,7-dimethoxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | Cl.COC=1C=C2C=C(CCC2=CC1OC)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C27H34N2O6.ClH/c1-31-22-15-19-6-7-20(14-21(19)16-23(22)32-2)27(30)29-10-8-28(9-11-29)17-18-12-24(33-3)26(35-5)25(13-18)34-4;/h12-16H,6-11,17H2,1-5H3;1H
